US07192943B2
Dess-Martin periodinane (4.2 g) was dissolved in methylene chloride (75 ml), and tert-butyl ((3S)-3-hydroxy-4-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-4-oxobutyl)carbamate (5 g) was added to the solution. The whole mixture was stirred at room temperature for 30 minutes and quenched with 1N aqueous sodium hydroxide solution (70 ml) with stirring for 30 minutes. The whole mixture was extracted with ethyl acetate. The extract was washed with water and brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give a crude product, which was purified by column chromatography on silica gel (ethyl acetate:methylene chloride=1:4) to give tert-butyl (4-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3,4-dioxobutyl)carbamate (3.4 g).

reactant | Dess-Martin periodinane | 4.2 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl ((3S)-3-hydroxy-4-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-4-oxobutyl)carbamate | 5 g | O[C@@H](CCNC(OC(C)(C)C)=O)C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C32H37N5O4
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (4-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3,4-dioxobutyl)carbamate | 3.4 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(C(CCNC(OC(C)(C)C)=O)=O)=O | C32H35N5O4
